US08748415B2
Step 6. Preparation of tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-formyl-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate
To a solution of tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(hydroxymethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (5.6 g, 9.32 mmol) in dichloromethane (100 ml) was added PCC (3.01 g, 13.98 mmol). The mixture was stirred at rt for 6.5 h then was filtered through a pad of celite and silica gel which was washed with dichloromethane then 1:1 ethyl acetate:hexanes. The filtrate was concentrated under reduced pressure and the residue was purified by flash chromatography using a 0-10% EtOAc in hexanes gradient to afford the title compound as a white solid (4.49 g, 7.50 mmol, 80% yield). 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 9.68 (1H, d, J=1.5 Hz), 7.87 (2H, d, J=8.2 Hz), 7.16 (2H, d, J=8.2 Hz), 5.26 (1H, dd, J=6.4, 1.8 Hz), 4.76 (1H, d, J=1.8 Hz), 4.63 (1H, s), 2.88 (1H, td, J=11.1, 5.8 Hz), 2.02-2.15 (3H, m), 1.70 (3H, s), 1.58 (9H, s), 1.00 (3H, s), 0.97 (3H, s), 0.97 (3H, s), 0.91 (6H, s), 0.83-1.94 (19H, m).

reactant | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(hydroxymethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 9.32 mmol, 5.6 g | OC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C | C41H60O3
reactant | PCC | 13.98 mmol, 3.01 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-formyl-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 7.50 mmol, 4.49 g, 80% yield | C(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C | C41H58O3
